*BZG05C4V7 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*4.7V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG05C4V7 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  4.193
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=642P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=1.02F RS=0.152 N=0.61)
.ENDS